US08975282B2
Step 2) 4-(3-chloro-4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide
To a suspension of 4-(4-amino-3-chlorophenoxy)picolinamide (191 mg, 0.72 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (168 mg, 0.72 mmol) in DCM (10 mL) was added EDCI (166 mg, 0.86 mmol) and HOAT (20 mg, 0.14 mmol). The reaction was stirred at 46° C. for 6 hours, followed by the addition of 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (32 mg, 0.14 mmol) and EDCI (27 mg, 0.14 mmol). The mixture was further stirred at 46° C. for 13 hours, then cooled to rt and diluted with water (10 mL). The resulted mixture was extracted with ethyl acetate (10 mL×3), and the combined organic phases were washed with brine (10 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=50/1) to give the title compound as a pale yellow solid (160 mg, 46.5%).

reactant | 4-(4-amino-3-chlorophenoxy)picolinamide | 0.72 mmol, 191 mg | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)Cl | C12H10ClN3O2
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.72 mmol, 168 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 0.86 mmol, 166 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.14 mmol, 20 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.14 mmol, 32 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 0.14 mmol, 27 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 4-(3-chloro-4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide | 160 mg, 46.5% | ClC=1C=C(OC2=CC(=NC=C2)C(=O)N)C=CC1NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C24H20ClN5O4
